US04377580
A suspension of diethyl [(6-nitro-4-quinazolinylamino)methylene]propanedioate (10.8 g) in N,N-dimethylformamide (380 ml) was shaken with 10% palladium on carbon (3.6 g) in hydrogen atmosphere at ambient temperature until hydrogen gas (2030 ml) was absorbed. The catalyst was removed by filtration and washed with a small volume of N,N-dimethylformamide. To the combined filtrate and washings was added pyridine (17 ml) and the mixture was cooled over an ice-bath. To the solution was added dropwise pivalic chloride (6.33 g) for 20 minutes and then the reaction mixture was stirred for 2 hours and 40 minutes at ambient temperature. To the resultant mixture was added ice-water under stirring and then the mixture was concentrated under reduced pressure. To the residue was added chloroform and then the mixture was washed with an aqueous solution saturated with sodium bicarbonate and with water. Insoluble materials were removed by filtration from the chloroform layer. The filtrate was washed with aqueous solution saturated with sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resultant oil was subjected to a chromatography using silica gel (developing solvent: dichloromethane) to give the first Fraction A and the second Fraction B. The Fraction A was concentrated under reduced pressure to give crystalline diethyl [(6-pivalamido-4-quinazolinylamino)methylene]propanedioate (4.6 g). Further, Fraction B was concentrated under reduced pressure to give a solid (3.6 g), which was suspended in methanol. Insoluble materials were separated by filtration and recrystallized from ethyl acetate to give crystalline diethyl [(6-formamido-4-quinazolinylamino)methylene]propanedioate (0.58 g).

reactant | diethyl [(6-nitro-4-quinazolinylamino)methylene]propanedioate | 10.8 g | [N+](=O)([O-])C=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C16H16N4O6
reactant | N,N-dimethylformamide | 380 ml | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 3.6 g | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
solvent | hydrogen | 2030 ml | [H][H] | H2
product | diethyl [(6-pivalamido-4-quinazolinylamino)methylene]propanedioate | 4.6 g | C(C(C)(C)C)(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C21H26N4O5
